### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Triangulated): localizing subcategories

### PR DESCRIPTION
**Pull request by joelriou**
We show that the functor from the Verdier quotient `A/(A ⊓ B)` to `C/B` is fully faithful when `A` is a `B`-right- or left-localizing triangulated subcategory in the sense of Verdier.

---

- [x] depends on: #38987
- [x] depends on: #38804
- [x] depends on: #38803
- [x] depends on: #38802
- [x] depends on: #38650

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean [hunk 1]
```diff
@@ -151,6 +151,128 @@ lemma IsVerdierLeftLocalizing.fac'
...
+          have := Localization.inverts L₁ (B.inverseImage A.ι).trW t'
+            (by rwa [trW_inverseImage_ι_iff])
+          rw [← cancel_mono (L₁.map t'), zero_comp, ← L₁.map_comp, ← L₁.map_zero]
+          congr 1
+          ext
+          simp [t', ← fac', reassoc_of% fac])
+    exact ⟨.ofFullyFaithful F⟩
+
+instance [A.IsTriangulated] [B.IsTriangulated] [B.IsClosedUnderIsomorphisms]
+    [A.IsVerdierLeftLocalizing B] :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean]:
```suggestion
instance [A.IsVerdierLeftLocalizing B] :
```

File: Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean [hunk 2]
```diff
@@ -151,6 +151,128 @@ lemma IsVerdierLeftLocalizing.fac'
...
+          obtain ⟨X₃, s, hs, fac⟩ := hf
+          obtain ⟨X₄, t, a, hX₄, ht, fac'⟩ :=
+            IsVerdierRightLocalizing.fac' s X₂.property hs
+          let t' : X₂ ⟶ ⟨X₄, hX₄⟩ := A.homMk t
+          have := Localization.inverts L₁ (B.inverseImage A.ι).trW t'
+            (by rwa [trW_inverseImage_ι_iff])
+          rw [← cancel_mono (L₁.map t'), zero_comp, ← L₁.map_comp, ← L₁.map_zero]
+          congr 1
+          ext
+          simp [t', ← fac', reassoc_of% fac])
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean]: I think it would be nicer to introduce an abbrev for `F` and prove as separate lemmas/instances that it is full, additive and faithful.

Comment (joelriou) [reply Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean]: Thanks for the suggestion! I have added some instances, and improved the API.

File: Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean [hunk 3]
```diff
@@ -151,6 +151,197 @@ lemma IsVerdierLeftLocalizing.fac'
...
+@[no_expose]
+noncomputable def IsVerdierRightLocalizing.fullyFaithful [A.IsVerdierRightLocalizing B]
+    {L₁ : A.FullSubcategory ⥤ D₁} {L₂ : C ⥤ D₂} {F : D₁ ⥤ D₂}
+    [L₁.IsLocalization (B.inverseImage A.ι).trW] [L₂.IsLocalization B.trW]
+    (e : L₁ ⋙ F ≅ A.ι ⋙ L₂) :
+    F.FullyFaithful :=
+  Functor.FullyFaithful.ofIso (.ofFullyFaithful
+    ((A.triangulatedLocalizerMorphism B).localizedFunctor L₁ L₂))
+      (Localization.liftNatIso L₁ (B.inverseImage A.ι).trW
+        ((A.triangulatedLocalizerMorphism B).functor ⋙ L₂) (L₁ ⋙ F) _ _ e.symm)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean]:
```suggestion
    (Localization.liftNatIso L₁ (B.inverseImage A.ι).trW
      ((A.triangulatedLocalizerMorphism B).functor ⋙ L₂) (L₁ ⋙ F) _ _ e.symm)
```

File: Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean [hunk 4]
```diff
@@ -151,6 +151,197 @@ lemma IsVerdierLeftLocalizing.fac'
...
+@[no_expose]
+noncomputable def IsVerdierLeftLocalizing.fullyFaithful [A.IsVerdierLeftLocalizing B]
+    {L₁ : A.FullSubcategory ⥤ D₁} {L₂ : C ⥤ D₂} {F : D₁ ⥤ D₂}
+    [L₁.IsLocalization (B.inverseImage A.ι).trW] [L₂.IsLocalization B.trW]
+    (e : L₁ ⋙ F ≅ A.ι ⋙ L₂) :
+    F.FullyFaithful :=
+  Functor.FullyFaithful.ofIso (.ofFullyFaithful
+    ((A.triangulatedLocalizerMorphism B).localizedFunctor L₁ L₂))
+      (Localization.liftNatIso L₁ (B.inverseImage A.ι).trW
+        ((A.triangulatedLocalizerMorphism B).functor ⋙ L₂) (L₁ ⋙ F) _ _ e.symm)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean]:
```suggestion
    (Localization.liftNatIso L₁ (B.inverseImage A.ι).trW
      ((A.triangulatedLocalizerMorphism B).functor ⋙ L₂) (L₁ ⋙ F) _ _ e.symm)
```

File: Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean [hunk 5]
```diff
@@ -151,6 +151,197 @@ lemma IsVerdierLeftLocalizing.fac'
     ∃ (Z : C) (s' : Z ⟶ Y) (a : Z ⟶ X), A Z ∧ (A ⊓ B).trW s' ∧ a ≫ s = s' :=
   (isVerdierLeftLocalizing_iff A B).1 inferInstance s hY hs
 
+/-- If `A` is a triangulated subcategory of a pretriangulated category `C`,
+and `B : ObjectProperty C`, this is the inclusion functor
+`A.ι : A.FullSubcategory ⥤ C`, considered as a localized morphism,
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/LocalizingSubcategory.lean]:
```suggestion
`A.ι : A.FullSubcategory ⥤ C`, considered as a localizer morphism,
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
